US05824691
28% Sodium methoxide in methanol (8.6 ml) was added to guanidine hydrochloride (4.7 g) in dry N,N-dimethylformamide (14 ml), and the mixture was stirred for 20 minutes at ambient temperature. To the mixture was added dimethyl 5-(2-cyanopyrrol-1-yl)isophthalate (1.4 g) and the mixture was stirred for 4 hours at the same temperature. The reaction mixture was poured into a water (150 ml) under stirring. The isolated precipitate was collected by filtration, washed with water and dried to give 2-[3-(2-cyanopyrrol-1-yl)-5-(diaminomethyleneaminocarbonyl)benzoyl]guanidine (0.88 g).

reactant | Sodium methoxide | C[O-].[Na+]
reactant | guanidine hydrochloride | 4.7 g | Cl.NC(=N)N
reactant | dimethyl 5-(2-cyanopyrrol-1-yl)isophthalate | 1.4 g | C(#N)C=1N(C=CC1)C=1C=C(C=C(C(=O)OC)C1)C(=O)OC | C15H12N2O4
reactant | water | 150 ml | O | H2O
solvent | methanol | 8.6 ml | CO | CH4O
solvent | N,N-dimethylformamide | 14 ml | CN(C=O)C | C3H7NO
product | 2-[3-(2-cyanopyrrol-1-yl)-5-(diaminomethyleneaminocarbonyl)benzoyl]guanidine | 0.88 g | C(#N)C=1N(C=CC1)C=1C=C(C(=O)N=C(N)N)C=C(C1)C(=O)N=C(N)N | C15H14N8O2
